US04384041
Ethyl chloroformate (0.94 ml) was added to Z-Ala-OH (2.2 g, 10 mM) and NMM (1.0 g, 10 mM) in THF at -20° C. and the mixture was stirred at -15° C. for 2 minutes. Tyramine (1.4 g, 10 mM) in DMF (20 ml) was added thereto and the mixture was stirred at room temperature overnight. THF was distilled off and ethyl acetate (100 ml) was added. The solution was washed with 10% w/w aqueous citrate, 5% w/w aqueous sodium bicarbonate and a small amount of water and dried with anhydrous sodium sulfate. After the drying agent was removed, n-hexane was added to the oily residue obtained from the concentrated solution. The precipitate was recrystallized from ethyl acetate-n-hexane to obtain a white powder. This powder was dissolved in 50% aqueous ethanol (600 ml), 5% palladium carbon (600 mg) and N-HCl (5 ml) were added, and hydrogen gas was introduced with stirring at room temperature. After the generation of carbon dioxide has terminated, the catalyst was removed and the filtrate was concentrated and dried in vacuo to yield L-alanine-p-hydroxyphenylethylamide.HCl (1.1 g, 46.1%).

reactant | Ethyl chloroformate | 0.94 ml | ClC(=O)OCC | C3H5ClO2
reactant | Z-Ala-OH | 10 mM, 2.2 g | N([C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C11H13NO4
reactant | NMM | 10 mM, 1.0 g | CN1CCOCC1 | C5H11NO
reactant | Tyramine | 10 mM, 1.4 g | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | hydrogen | [H][H] | H2
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 600 ml | C(C)O | C2H6O
catalyst | palladium carbon | 600 mg | [C].[Pd]
product | L-alanine-p-hydroxyphenylethylamide | OC1=CC=C(C=C1)CCNC([C@@H](N)C)=O | C11H16N2O2
